US07569519B2
Step 1: 2-chloro-3-(3-tetrahydrofuranyl)oxymethyl-4-methylsulfonylbenzoic acid
At 0° C., 25 ml of DMF and 3.25 g (28 mmol) of potassium tert-butoxide were initially charged and mixed with 2.5 g (27.5 mmol) of 3-hydroxytetrahydrofuran. The solution was cooled to −15° C., and 4.7 g (140 mmol) of 3-bromomethyl-2-chloro-4-methylsulfonylbenzoic acid were added. The mixture was then stirred at 15-20° C. for one hour. The reaction was poured into 45 g of ice/water, acidified with 2N HCl and extracted with EA. The organic phases were dried with MgSO4, filtered and concentrated. This gave 5.41 g of a viscous oil of a purity of about 66% according to HPLC. Yield about 60%

reactant | potassium tert-butoxide | 28 mmol, 3.25 g | CC(C)([O-])C.[K+]
reactant | 3-hydroxytetrahydrofuran | 27.5 mmol, 2.5 g | OC1COCC1 | C4H8O2
reactant | 3-bromomethyl-2-chloro-4-methylsulfonylbenzoic acid | 140 mmol, 4.7 g | BrCC=1C(=C(C(=O)O)C=CC1S(=O)(=O)C)Cl | C9H8BrClO4S
reactant | HCl | 2N | Cl | ClH
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
product | 2-chloro-3-(3-tetrahydrofuranyl)oxymethyl-4-methylsulfonylbenzoic acid | Yield about 60% | ClC1=C(C(=O)O)C=CC(=C1COC1COCC1)S(=O)(=O)C | C13H15ClO6S
